US09382188B2
F) 2-(5-(tert-butyl)-1,3,4-oxadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol
To a solution of 2-(5-(tert-butyl)-1,3,4-oxadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl pivalate (405 mg) in methanol (3.0 mL) and THF (3.0 mL) was added 1N aqueous sodium hydroxide solution (3.0 mL), and the mixture was stirred at room temperature for 4 hr. Water and hydrochloric acid were added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (114 mg) as a white amorphous solid.

reactant | 2-(5-(tert-butyl)-1,3,4-oxadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl pivalate | 405 mg | C(C(C)(C)C)(=O)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)C=1OC(=NN1)C(C)(C)C | C24H27FN2O4
reactant | sodium hydroxide | 1N, 3.0 mL | [OH-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 3.0 mL | CO | CH4O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 2-(5-(tert-butyl)-1,3,4-oxadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol | 114 mg | C(C)(C)(C)C1=NN=C(O1)C1=C(C=CC(=C1)O)C1=C(C=CC(=C1)OC)F | C19H19FN2O3
